US07851464B2
Step A. 5-Chloro-7-nitro-1,3-benzoxazol-2(3H)-one
To a stirred solution of 2-amino-4-chloro-6-nitrophenol (2.00 g, 10.6 mmol) in THF (50 mL) was added 1,1′-carbonyldiimidazole (2.06 g, 12.7 mmol) and the resulting mixture was stirred at ambient temperature for 1 h. The mixture was poured into 1 N hydrochloric acid and the precipitate was isolated by filtration, washed with H2O, then hexanes, and dried in vacuo to give the title compound.

reactant | 2-amino-4-chloro-6-nitrophenol | 10.6 mmol, 2.00 g | NC1=C(C(=CC(=C1)Cl)[N+](=O)[O-])O | C6H5ClN2O3
reactant | 1,1′-carbonyldiimidazole | 12.7 mmol, 2.06 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 5-Chloro-7-nitro-1,3-benzoxazol-2(3H)-one | ClC=1C=C(C2=C(NC(O2)=O)C1)[N+](=O)[O-] | C7H3ClN2O4
